US04385062
A mixture of 3,3-dimethyl-1-cyclopentene-1-carboxylic acid (2 g) and thio-benzoic acid (2.37 g) is heated to 120° C. for 14 hours under Argon stream. The reaction mixture is cooled, taken up with a small amount of cyclohexane and filtered yielding 2.05 g of trans 2-benzoylthio-3,3-dimethylcyclopentyl carboxylic acid. M.p. 131° C. (from hexane).

reactant | 3,3-dimethyl-1-cyclopentene-1-carboxylic acid | 2 g | CC1(C=C(CC1)C(=O)O)C | C8H12O2
reactant | thio-benzoic acid | 2.37 g | C(C1=CC=CC=C1)(=S)O | C7H6OS
solvent | cyclohexane | C1CCCCC1 | C6H12
product | trans 2-benzoylthio-3,3-dimethylcyclopentyl carboxylic acid | 2.05 g | C(C1=CC=CC=C1)(=O)S[C@H]1[C@@H](CCC1(C)C)C(=O)O | C15H18O3S
